### PR TITLE
Flat connected maps and global points of simplices

### LINKED ISSUE #258: Characterising the global points of the 1-simplex also gives characterisations for higher simplices

### PR DESCRIPTION
**Pull request by samtoth**
Resolves #258. At least in the case of $\Delta^2$.

Defines flat-connected types and shows that `up-connected (flat-map point-incl)` is exactly the $\flat\Delta^1$-ind we had before. Then can show that flat connected types are closed under all the nice things like retracts and products.

$\Delta^2$-point-inclusion is a retract of the product of two copies of $\Delta^1$ point inclusion.

~~Currently very messy~~ Now slightly less messy, and rebased on top of #270

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
Woah this got large quickly

**Comment by samtoth** [comment]
> Woah this got large quickly

I think it's just because I rebased it on top of #270. I can't tell if something weird has happened in git

**Comment by fredrik-bakke** [comment]
can't we just merge that one? or are you reviewing it as part of working on this PR?

**Comment by fredrik-bakke** [comment]
Ah, I see, your branch has desynced from master. The number also counts changes from other PRs I've merged recently

File: src/Core/Arrows.lagda.tree [hunk 1]
```diff
@@ -259,6 +259,19 @@ module _ {𝓤 𝓥} {A : Type 𝓤} {B : Type 𝓥} {f : A → B}
     Arrow-map-path→-refl
       = unap-equiv (Arrow-map-path≃ _ _ ._≃_.fwd-is-equiv)
                    (is-equiv.ε (Arrow-map-path≃ _ _ ._≃_.fwd-is-equiv) _)
+
+  Arrow-map-path-∙
```
Comment (fredrik-bakke) [inline src/Core/Arrows.lagda.tree]: oh, lol, I also add this in #281 !

File: src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree [hunk 2]
```diff
@@ -122,9 +163,13 @@ however this is yet to be formalised
...
   (@♭ cubes-separate : family-separates □^_)
-  (@♭ ♭Δ²-ind
-    : ∀ {𝓤} (P : @♭ Δ² → Prop 𝓤) → (∀ (@♭ x : Fin 3) → P (Δ²-point-incl x) .fst)
-    → (@♭ x : Δ²) → P x .fst)
+  (@♭ ∂Δ¹-♭-connected : is-♭-connected (Truncation-gRSubU -1) ∂Δ¹-incl)
+  (let @♭ Δ²-points-♭-connected
+            = is-♭-connected←retraction-arrow-map (Truncation-gRSubU -1)
+                retract-Δ²-points-∂Δ¹×∂Δ¹
+                (×₁-is-♭-connected (Truncation-gRSubU -1)
+                  ∂Δ¹-♭-connected ∂Δ¹-♭-connected))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree]: This lemma can be factored to a standalone lemma I think

File: src/Core/ArrowRetracts.lagda.tree [hunk 3]
```diff
@@ -96,6 +96,19 @@ module _
...
+      (G : Arrow-map g f)
+    → Arrow-map-path (paste-squares G F) id-square
+    → retraction-arrow-map F
+  mk-retraction-arrow-map F G p .fst = G
+  mk-retraction-arrow-map F G p .snd .fst = p .fst
+  mk-retraction-arrow-map F G p .snd .snd .fst = p .snd .fst
+  mk-retraction-arrow-map F G p .snd .snd .snd a
+    = sym (∙-assoc _ (Arrow-map.comm G (Arrow-map.top F a)) (ap f (p .fst a)))
+    ∙ (p .snd .snd) a
+    ∙ ∙-reflr _
```
Comment (fredrik-bakke) [inline src/Core/ArrowRetracts.lagda.tree]: I believe this is correct?
```suggestion
    = ∙h-assoc _ (Arrow-map.comm G ▹h Arrow-map.top F) (f ◃h p .fst) h⁻¹
    ∙h p .snd .snd
    ∙h ∙h-reflr _
```

File: src/Modalities/Cohesion/Flat.lagda.tree [hunk 4]
```diff
@@ -567,3 +612,50 @@ module _
...
 }
 }
+
+\subtree[tot-06AY]{
+\title{Dependent #{♭} precomposition}
+\taxon{Construction}
+\date{2026-09-11}
+
+\p{We may define a crisp precomposition map which takes a crisply-indexed family of
+types #{U : (b :^\flat B) \to \UU} and a crisp map #{f :^\flat A \to B} and defines
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/Flat.lagda.tree]:
```suggestion
types #{U : (b :^\flat B) \to \UU} and a crisp map #{f \colon^\flat A \to B} and defines
```

File: src/Modalities/Cohesion/Flat.lagda.tree [hunk 5]
```diff
@@ -567,3 +612,50 @@ module _
...
+  {@♭ 𝓤 𝓥} {𝓦} {@♭ A : Type 𝓤} {@♭ B : Type 𝓥}
+  (U : @♭ B → Type 𝓦) (@♭ f : A → B)
+  where
+
+  precomp-Π♭ : ((@♭ b : B) → U b) → (@♭ a : A) → U (f a)
+  precomp-Π♭ g x = g (f x)
+}
+
+\p{This is equivalent as a map to precomposing the induced family
+#{\hat{U} : \flat B \to \UU} by #{\flat f : \flat A \to \flat B}.}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/Flat.lagda.tree:642]:
```suggestion
#{\hat{U} \colon \flat B \to \UU} by #{\flat f \colon \flat A \to \flat B}.}
```

File: src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree [hunk 6]
```diff
@@ -0,0 +1,181 @@
...
+}
+}
+
+\subtree[tot-2417]{
+\title{The universal property of #{\flat}-connected maps}
+\taxon{Definition}
+
+\p{
+For a [global subuniverse](stt-007A) #{\mathcal{K}}, we say that a map #{f} has the universal
+property of #{\flat}-#{\mathcal{K}}-connected maps if for each #{\mathcal{K}} valued
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree]:
```suggestion
property of #{\flat}-#{\mathcal{K}}-connected maps if for each #{\mathcal{K}}-valued
```

File: src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree [hunk 7]
```diff
@@ -0,0 +1,181 @@
...
+\agda{
+up-♭-connected-map
+  : ∀ {α} {@♭ 𝓤 𝓥} (K : gSubU α)
+      {@♭ A : Type 𝓤} {@♭ B : Type 𝓥}
+      (@♭ f : A → B)
+    → Typeω
+up-♭-connected-map K f
+  = ∀ {𝓚} {U : @♭ _ → Type 𝓚}
+    → (∀ (@♭ b : _) → U b ∈ gSubU.S K)
+    → is-equiv (precomp-Π♭ U f)
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree]:
```suggestion
up-♭-connected-map K {B = B} f
  = ∀ {𝓚} {U : @♭ B → Type 𝓚}
    → (∀ (@♭ b : B) → U b ∈ gSubU.S K)
    → is-equiv (precomp-Π♭ U f)
```

File: src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree [hunk 8]
```diff
@@ -0,0 +1,181 @@
...
+
+open import Modalities.Cohesion.Flat
+open import Modalities.Cohesion.FlatLex
+open import Modalities.Cohesion.LiftingSquares
+}
+}
+
+\subtree[tot-2417]{
+\title{The universal property of #{\flat}-connected maps}
+\taxon{Definition}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree:35]: add date and authorship

File: src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree [hunk 9]
```diff
@@ -0,0 +1,181 @@
...
+    → Typeω
+up-♭-connected-map K f
+  = ∀ {𝓚} {U : @♭ _ → Type 𝓚}
+    → (∀ (@♭ b : _) → U b ∈ gSubU.S K)
+    → is-equiv (precomp-Π♭ U f)
+}
+}
+
+\subtree[tot-0L55]{
+\taxon{Lemma}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree:60]: add date and authorship

File: src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree [hunk 10]
```diff
@@ -0,0 +1,181 @@
...
+  up-♭-connected-map←up-connected-♭-map
+    : up-connected-map K (♭-map f) → up-♭-connected-map K f
+  up-♭-connected-map←up-connected-♭-map fc {U = U} UK
+    = src-is-equiv←Arrow-equiv (precomp-Π♭≃ U f) (fc (♭-ind UK))
+}
+}
+
+\subtree[tot-0PSI]{
+\title{#{♭}-connected maps}
+\taxon{Definition}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree:97]: add date and authorship

File: src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree [hunk 11]
```diff
@@ -0,0 +1,181 @@
...
+    → Type (𝓤 ⊔ 𝓥)
+is-♭-connected K f = is-connected-map K (♭-map f)
+}
+}
+
+
+\subtree[tot-02LA]{
+\title{Flat connected maps are closed under the same operations as connected
+maps}
+\taxon{Corollary}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree:118]: add date and authorship

File: src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree [hunk 12]
```diff
@@ -0,0 +1,181 @@
...
+              (up-connected-map←is-connected-map (♭-map f) fc)
+              (up-connected-map←is-connected-map (♭-map g) gc)))
+    where
+    open gRSubUConnectedCharacterisation 𝒦
+}
+}
+
+\subtree[tot-006A]{
+\taxon{Definition}
+\title{#{♭}-Surjections}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree:164]: add date and authorship

File: src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree [hunk 13]
```diff
@@ -0,0 +1,181 @@
...
+
+\p{We give a bespoke definition for the universal property of #{\flat}-connected maps
+with respect to the [-1 truncation modality](Foundations.Truncated). In other words,
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree]:
```suggestion
with respect to the [propositional truncation](Foundations.Truncated) modality. In other words,
```

File: src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree [hunk 14]
```diff
@@ -0,0 +1,181 @@
...
+
+
+\subtree[tot-02LA]{
+\title{Flat connected maps are closed under the same operations as connected
+maps}
+\taxon{Corollary}
+
+\agda{
+module _ {α} (𝒦 : gRSubU α) (let 𝒦r = 𝒦 .gRSubU.GS) where
+  is-♭-connected←retraction-arrow-map
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/FlatConnectedMaps.lagda.tree:125]:
```suggestion

  is-♭-connected←retraction-arrow-map
```

File: src/Modalities/Cohesion/FlatLex.lagda.tree [hunk 15]
```diff
@@ -137,6 +137,48 @@ mapply♭-natural f (mod♭ p)
...
+}
+
+\subtree[tot-POS5]{
+\author{samueltoth}
+\date{2026-09-08}
+\taxon{Lemma}
+\title{Properties of #{\ap_♭}}
+
+\p{We require [the strong crisp identity induction](stt-00J1) to show that #{\ap_♭}
+is well behaved.}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/FlatLex.lagda.tree]: Please start by explaining what the subtree is about. Briefly if you wish

File: src/Modalities/Cohesion/LiftingSquares.lagda.tree [hunk 16]
```diff
@@ -44,6 +45,67 @@ open import Core.Orthogonal
...
+    → Arrow-map-path (♭Square (id-square {f = f})) id-square
+♭Square-id .fst = ♭-id
+♭Square-id .snd .fst = ♭-id
+♭Square-id .snd .snd = ♭-ind λ x → refl
+}
+}
+
+\subtree[tot-0D5S]{
+\taxon{Lemma}
+\title{#{♭} preserves equivalences of arrows}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/LiftingSquares.lagda.tree:84]: please add date and authorship

File: src/Modalities/Cohesion/LiftingSquares.lagda.tree [hunk 17]
```diff
@@ -44,6 +45,67 @@ open import Core.Orthogonal
...
+      (@♭ F : Arrow-equiv f g)
+    → Arrow-equiv (♭-map f) (♭-map g)
+♭-arrow-equiv F .fst = ♭Square (F .fst)
+♭-arrow-equiv F .snd = ♭-square-is-equiv (F .fst) (F .snd)
+}
+}
+
+\subtree[tot-SLDP]{
+\title{#{\flat} preserves cartesian squares}
+\taxon{Lemma}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/LiftingSquares.lagda.tree:110]: please add date and authorship

File: src/Modalities/Cohesion/LiftingSquares.lagda.tree [hunk 18]
```diff
@@ -70,23 +132,65 @@ We can express this property in terms of cartesian squares:}
...
+  ∙ ap♭ (ap♭ mod♭) (p .snd .snd x)
+  ∙ ap♭-∙ mod♭ _ (G .Arrow-map.comm x)
+  ∙ ap (_∙ ap♭ mod♭ (G .Arrow-map.comm x)) (mapply♭＝ap♭-mod♭ (p .snd .fst (f x)))
+}
+}
+
+\subtree[tot-9692]{
+\title{The action of #{\flat} on retracts of arrows}
+\taxon{Construction}
+\date{2026-09-10}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/LiftingSquares.lagda.tree:170]: please add authorship

File: src/Modalities/Cohesion/LiftingSquares.lagda.tree [hunk 19]
```diff
@@ -70,23 +132,65 @@ We can express this property in terms of cartesian squares:}
...
-      {@♭ D : Type 𝓜} {@♭ f : A → B} {@♭ g : C → D}
-      (@♭ F : Arrow-map f g)
-    → @♭ is-Arrow-equiv F
-    → is-Arrow-equiv (♭Square F)
-♭-square-is-equiv F Fe .fst = is-♭-equiv←is-equiv (Fe .fst)
-♭-square-is-equiv F Fe .snd = is-♭-equiv←is-equiv (Fe .snd)
+\subtree[tot-5920]{
+\title{The action of #{♭} on [arrow map homotopies](stt-004I)}
+\taxon{Construction}
+\date{2026-09-09}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/LiftingSquares.lagda.tree:145]: please add authorship

File: src/Modalities/Cohesion/LiftingSquares.lagda.tree [hunk 20]
```diff
@@ -70,23 +132,65 @@ We can express this property in terms of cartesian squares:}
...
-♭-square-is-equiv
-  : ∀ {@♭ 𝓤 𝓥 𝓦 𝓜} {@♭ A : Type 𝓤} {@♭ B : Type 𝓥} {@♭ C : Type 𝓦}
-      {@♭ D : Type 𝓜} {@♭ f : A → B} {@♭ g : C → D}
-      (@♭ F : Arrow-map f g)
-    → @♭ is-Arrow-equiv F
-    → is-Arrow-equiv (♭Square F)
-♭-square-is-equiv F Fe .fst = is-♭-equiv←is-equiv (Fe .fst)
-♭-square-is-equiv F Fe .snd = is-♭-equiv←is-equiv (Fe .snd)
+\subtree[tot-5920]{
+\title{The action of #{♭} on [arrow map homotopies](stt-004I)}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/LiftingSquares.lagda.tree]: I know I haven't brought it up before, but the composite phrasing "arrow map homotopies" is quite awkward, and should be avoided. Instead we can write "homotopies of morphisms of arrows".

File: src/Modalities/Cohesion/LiftingSquares.lagda.tree [hunk 21]
```diff
@@ -70,23 +132,65 @@ We can express this property in terms of cartesian squares:}
...
+  = mk-retraction-arrow-map
+      (♭Square F) (♭Square G)
+      (concat-Arrow-map-path
+        {S = paste-squares (♭Square G) (♭Square F)}
+        {T = ♭Square (paste-squares G F)}
+        {U = id-square}
+        (♭Square-∘ _ _)
+        (concat-Arrow-map-path
+          (♭Arrow-map-path _ _ (retraction-arrow-map-is-retraction F (G , r)))
+          ♭Square-id))
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/LiftingSquares.lagda.tree]:
```suggestion
          (♭Square-id)))
```

File: src/Modalities/Cohesion/Flat.lagda.tree [hunk 22]
```diff
@@ -567,3 +612,50 @@ module _
     ♭-map-total-is-equiv = tgt-is-equiv←Arrow-equiv (♭-map-total-Arrow-equiv)
 }
 }
+
+\subtree[tot-06AY]{
+\title{Dependent #{♭} precomposition}
+\taxon{Construction}
+\date{2026-09-11}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/Flat.lagda.tree:619]: add authorship

File: src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree [hunk 23]
```diff
@@ -73,6 +69,55 @@ open import Synthetic.Categories.CovariantFamilies Δ¹ I
...
+Fin3-retract-4 .fst fzero = (∂Δ¹-0 , ∂Δ¹-0)
+Fin3-retract-4 .fst (fsuc fzero) = (∂Δ¹-1 , ∂Δ¹-0)
+Fin3-retract-4 .fst (fsuc (fsuc fzero)) = (∂Δ¹-1 , ∂Δ¹-1)
+Fin3-retract-4 .snd .fst (∂Δ¹-1 , ∂Δ¹-1) = 2
+Fin3-retract-4 .snd .fst (∂Δ¹-1 , ∂Δ¹-0) = 1
+Fin3-retract-4 .snd .fst (∂Δ¹-0 , ∂Δ¹-1) = 2
+Fin3-retract-4 .snd .fst (∂Δ¹-0 , ∂Δ¹-0) = 0
+Fin3-retract-4 .snd .snd fzero = refl
+Fin3-retract-4 .snd .snd (fsuc fzero) = refl
+Fin3-retract-4 .snd .snd (fsuc (fsuc fzero)) = refl
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree]:
```suggestion
Fin-3-retract-∂Δ¹×∂Δ¹ : retract (Fin 3) (∂Δ¹ × ∂Δ¹)
Fin-3-retract-∂Δ¹×∂Δ¹ .fst fzero = (∂Δ¹-0 , ∂Δ¹-0)
Fin-3-retract-∂Δ¹×∂Δ¹ .fst (fsuc fzero) = (∂Δ¹-1 , ∂Δ¹-0)
Fin-3-retract-∂Δ¹×∂Δ¹ .fst (fsuc (fsuc fzero)) = (∂Δ¹-1 , ∂Δ¹-1)
Fin-3-retract-∂Δ¹×∂Δ¹ .snd .fst (∂Δ¹-1 , ∂Δ¹-1) = 2
Fin-3-retract-∂Δ¹×∂Δ¹ .snd .fst (∂Δ¹-1 , ∂Δ¹-0) = 1
Fin-3-retract-∂Δ¹×∂Δ¹ .snd .fst (∂Δ¹-0 , ∂Δ¹-1) = 2
Fin-3-retract-∂Δ¹×∂Δ¹ .snd .fst (∂Δ¹-0 , ∂Δ¹-0) = 0
Fin-3-retract-∂Δ¹×∂Δ¹ .snd .snd fzero = refl
Fin-3-retract-∂Δ¹×∂Δ¹ .snd .snd (fsuc fzero) = refl
Fin-3-retract-∂Δ¹×∂Δ¹ .snd .snd (fsuc (fsuc fzero)) = refl
```

File: src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree [hunk 24]
```diff
@@ -73,6 +69,55 @@ open import Synthetic.Categories.CovariantFamilies Δ¹ I
 }
 }
 
+\subtree[tot-6792]{
+\taxon{Lemma}
+\date{2026-09-09}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree:75]: Add authorship. Also, a fitting title might be "Global points of #{Δ²}"

File: trees/stt/stt-00XH.tree [hunk 25]
```diff
@@ -144,6 +144,18 @@ Finally, the standard argument that right adjoints preserve limits should give u
...
 formalise this, I ran into some coherence problems that were difficult to just brute
 force.}
+
+\subtree[tot-CDEF]{
+\title{Updates}
+\meta{source}{[PR\startverb#\stopverb269](https://github.com/samtoth/agda-synthetic-categories/pull/269)}
+
+\p{In [PR\startverb#\stopverb269](https://github.com/samtoth/agda-synthetic-categories/pull/269),
+we introduce the notion of [#{\flat}-connected maps](tot-2417), which generalises
+axioms like \em{"the booleans cover #{\flat \Delta^1}"}. This allows us to reuse the
```
Comment (fredrik-bakke) [inline trees/stt/stt-00XH.tree]: Inaccurate phrasing. The notion does not generalise the axiom, it facilitates/covers it.

File: trees/stt/stt-00XH.tree [hunk 26]
```diff
@@ -144,6 +144,18 @@ Finally, the standard argument that right adjoints preserve limits should give u
...
+general machinery of [connected maps](Modalities.ConnectedMaps) and show that
+[axiom 6 above](tot-ABCD) follows from axiom 5 via a simple retract argument
+(\ref{tot-6792}).}
```
Comment (fredrik-bakke) [inline trees/stt/stt-00XH.tree]: It might be noted that the retract argument extends to that Fin n+1 covers Delta^n, which is left for future work. The argument appears in Commuting Cohesions.

**Review by fredrik-bakke — APPROVED** [review]
Nice work! Always feels good to see axioms dispelled 🧙‍♂️

**Comment by samtoth** [comment]
This includes the 100th tree :D

**Comment by fredrik-bakke** [comment]
Do you mean 1000th? We have 280 files alone AFAICT

**Comment by samtoth** [comment]
> Do you mean 1000th? We have 280 files alone AFAICT

100 in base 36 ;)

**Comment by fredrik-bakke** [comment]
Ohhh nice!!
